US04839379
1-(4-Aminophenyl)-3-methyl-3-azabicyclo[3.1.0]hexane-2,4-dione
A mixture of 220 mg of 1-(4-aminophenyl)-1,2-cyclopropanedicarboxylic acid, 10 ml of methanol and 0.26 ml of methylamine (40%) is stirred in a glass bomb tube for 7 days at 100° C. The mixture is concentrated in vacuo and the residue is chromatographed over a column of silica gel with a 4:6 mixture of hexane/ethyl acetate. Recrystallisation from ethyl acetate/petroleum ether affords yellow crystals of the title compound, which is identical with the title compound of Example 3(a).

reactant | 1-(4-aminophenyl)-1,2-cyclopropanedicarboxylic acid | 220 mg | NC1=CC=C(C=C1)C1(C(C1)C(=O)O)C(=O)O | C11H11NO4
reactant | methylamine | 0.26 ml | CN | CH5N
solvent | methanol | 10 ml | CO | CH4O
product | 1-(4-Aminophenyl)-3-methyl-3-azabicyclo[3.1.0]hexane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C2C1)=O)C)=O | C12H12N2O2
